US08981085B2
A solution of 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (200 mg, 0.869 mmol) in pyridine (5 mL) at 0° C. was treated dropwise with cyclopropanecarbonyl chloride (118.3 μL, 1.304 mmol). The mixture was stirred at 0° C. for 60 minutes, and then the pyridine was removed in vacuo. The residue obtained was dissolved in THF (10 mL) and treated with lithium hydroxide hydrate (109.5 mg, 2.61 mmol) in water (1 mL). After 30 minutes, the THF was removed under reduced pressure, and water (5 mL) was added to the residue. The solid formed was filtered, washed with additional water and dried to provide N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide (165 mg, 64% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 12.03 (br s, 1H), 9.76 (s, 1H), 8.34 (d, 1H), 7.59 (s, 1H), 1.93-1.86 (m, 1H), 0.783 (d, 4H); LCMS (APCI+) m/z 298, 300 (M+H)+, Retention time=2.71 min (Method 2).

reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 0.869 mmol, 200 mg | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | cyclopropanecarbonyl chloride | 1.304 mmol, 118.3 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | lithium hydroxide hydrate | 2.61 mmol, 109.5 mg | O.[OH-].[Li+]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide | 165 mg, 64% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CC2)F | C11H9BrFN3O
